US05942544
Part B. The 3-(cyano)-beta-(hydroxy)benzenepropanoate (0.33 gm, 1.51 mmol), a-bromo p-tolunitrile (0.59 gm, 3.0 mmol), cesium carbonate (0.74 gm, 2.26 mmol) and catalytic amount of potassium iodide were combined in 10 mLs acetone under a nitrogen atmosphere. The reaction was heated to reflux for 21/2 days, allowed to cool, was diluted with ethyl acetate and the solids were filtered off. The filtrate was concentrated to give a crude yellow oil. The product was purified by flash chromatography on silica gel (200 mLs) eluting toluene:ethyl acetate (v:v, 90:10) to give the ethyl 3-(cyano)-beta-[(4cyanophenyl)methoxy]benzenepropanoate as a viscous oil 0.25 gm (50%). MS 352(M+NH4). 1H NMR (CDCl3); 7.7-7.35(m, 8H), 4.92(dd, 1H), 4.45(dd, 2H), 4.15(m, 2H), 2.85(dd, 1H), 2.60(dd, 1H), 1.20(t,3H).

reactant | 3-(cyano)-beta-(hydroxy)benzenepropanoate | 1.51 mmol, 0.33 gm | C(#N)C=1C=C(C=CC1)C(CC(=O)[O-])O
reactant | a-bromo p-tolunitrile | 3.0 mmol, 0.59 gm | C1=CC(=CC=C1CBr)C#N | C8H6BrN
reactant | cesium carbonate | 2.26 mmol, 0.74 gm | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
reactant | acetone | 10 mLs | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(cyano)-beta-[(4cyanophenyl)methoxy]benzenepropanoate | 0.25 gm, 50% | C(#N)C=1C=C(C=CC1)C(CC(=O)OCC)OCC1=CC=C(C=C1)C#N | C20H18N2O3
